### PR TITLE
[Merged by Bors] - feat(FieldTheory/PrimitiveElement): Steinitz Theorem

### PR DESCRIPTION
**Pull request by acmepjz**
Added `Field.exists_primitive_element_iff_finite_intermediateField`: a finite extension `E / F` has a primitive element if and only if the intermediate fields between `E / F` are finitely many.
Also known as Steinitz Theorem <https://en.wikipedia.org/wiki/Primitive_element_theorem#The_theorems>.

---

- [x] depends on: #7957

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 1]
```diff
@@ -214,6 +256,157 @@ noncomputable def powerBasisOfFiniteOfSeparable : PowerBasis F E :=
 
 end SeparableAssumption
 
+section FiniteIntermediateField
+
+theorem exists_primitive_element_of_finite_intermediateField :
+    Finite (IntermediateField F E) → ∃ α : E, F⟮α⟯ = ⊤ := by
```
Comment (tb65536) [inline Mathlib/FieldTheory/PrimitiveElement.lean:262]: You should move this hypothesis before the colon

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 2]
```diff
@@ -214,6 +256,157 @@ noncomputable def powerBasisOfFiniteOfSeparable : PowerBasis F E :=
...
+      cases' primitive_element_inf_aux_of_finite_intermediateField F α β with γ hγ
+      exact ⟨γ, hγ.symm⟩
+    exact induction_on_adjoin P base ih ⊤
+  · exact exists_primitive_element_of_finite_bot F E
+
+lemma finite_intermediateField_of_exists_primitive_element.aux_finrank
+    (K : IntermediateField F E) :
+    letI : Algebra K (⊤ : IntermediateField K E) := IntermediateField.algebra _
+    letI : Module K (⊤ : IntermediateField K E) := Algebra.toModule
+    finrank K (⊤ : IntermediateField K E) = finrank K E := by
```
Comment (tb65536) [inline Mathlib/FieldTheory/PrimitiveElement.lean:281]: This lemma should go in a different file

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 3]
```diff
@@ -170,10 +173,49 @@ theorem primitive_element_inf_aux [IsSeparable F E] : ∃ γ : E, F⟮α, β⟯
...
+    [Finite (IntermediateField F E)] : ∃ γ : E, F⟮α, β⟯ = F⟮γ⟯ := by
+  let f : F → IntermediateField F E := fun x => F⟮α + x • β⟯
+  obtain ⟨K, hinf⟩ := Finite.exists_infinite_fiber f
+  replace hinf : Nontrivial (Set.preimage f {K}) := inferInstance
+  obtain ⟨x, y, hneq⟩ := hinf.exists_pair_ne
+  replace hneq : (x : F) ≠ (y : F) := fun h => hneq (SetCoe.ext h)
+  have hx : f x = K := Set.mem_singleton_iff.1 $ Set.mem_preimage.1 $ Subtype.mem x
+  have hy : f y = K := Set.mem_singleton_iff.1 $ Set.mem_preimage.1 $ Subtype.mem y
+  simp only at hx
+  simp only at hy
```
Comment (alexjbest) [inline Mathlib/FieldTheory/PrimitiveElement.lean:193]:
```suggestion
  simp only at hx hy
```
but this line may not even be needed?

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 4]
```diff
@@ -170,10 +173,49 @@ theorem primitive_element_inf_aux [IsSeparable F E] : ∃ γ : E, F⟮α, β⟯
...
+    have β_in_K := K.sub_mem αxβ_in_K αyβ_in_K
+    rw [show (α + (x : F) • β) - (α + (y : F) • β) = ((x : F) - (y : F)) • β by
+      rw [sub_smul]
+      abel1] at β_in_K
+    replace β_in_K := K.smul_mem β_in_K (x := ((x : F) - (y : F))⁻¹)
+    rw [smul_smul, inv_mul_eq_div, div_self (sub_ne_zero.2 hneq), one_smul] at β_in_K
+    have α_in_K : α ∈ K := by
+      rw [← add_sub_cancel α ((x : F) • β)]
+      exact K.sub_mem αxβ_in_K (K.smul_mem β_in_K (x := (x : F)))
+    exact fun x hx => by
```
Comment (alexjbest) [inline Mathlib/FieldTheory/PrimitiveElement.lean:210]: Can't this be `intro x hx` (or better yet `rintro x \<hx,\<hx\>\>`)

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 5]
```diff
@@ -214,6 +256,157 @@ noncomputable def powerBasisOfFiniteOfSeparable : PowerBasis F E :=
...
+  }
+
+lemma finite_intermediateField_of_exists_primitive_element.aux_1
+    (S : Set E) (hprim : adjoin F S = ⊤) (K : IntermediateField F E) :
+    adjoin K S = ⊤ := by
+  apply restrictScalars_injective (K := F) (L' := K) (L := E)
+  rw [restrictScalars_top, ← top_le_iff, ← hprim, adjoin_le_iff,
+    coe_restrictScalars, ← adjoin_le_iff]
+
+lemma finite_intermediateField_of_exists_primitive_element.aux_2
```
Comment (alexjbest) [inline Mathlib/FieldTheory/PrimitiveElement.lean:305]: I don't think these are good names, if these lemmas would be useful for any other proof they should get descriptive names, if not they should be `private`

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 6]
```diff
@@ -214,6 +256,157 @@ noncomputable def powerBasisOfFiniteOfSeparable : PowerBasis F E :=
...
+    Polynomial.natDegree_map_eq_of_injective (NoZeroSMulDivisors.algebraMap_injective K'' E),
+    hqdvdp,
+    Polynomial.natDegree_mul (left_ne_zero_of_mul hpne0) (right_ne_zero_of_mul hpne0),
+    ← IntermediateField.adjoin.finrank (K := K'') (x := α) (hx := isIntegral_of_finite K'' α),
+    Field.finite_intermediateField_of_exists_primitive_element.aux_1 F E _ hprim K'',
+    Field.finite_intermediateField_of_exists_primitive_element.aux_finrank F E K''] at hpdeg
+  replace hpdeg : finrank K E ≥ finrank K'' E := by linarith only [hpdeg, Nat.le_add_right]
+  exact (eq_of_le_of_finrank_le' inf_le_left hpdeg).symm
+
+lemma finite_intermediateField_of_exists_primitive_element.aux_fin
```
Comment (alexjbest) [inline Mathlib/FieldTheory/PrimitiveElement.lean:347]: this lemma seems to be true quite generally, I think it should probably move somewhere where people might find it. It could probably also be generalized a bit to domains at least

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 7]
```diff
@@ -214,6 +256,157 @@ noncomputable def powerBasisOfFiniteOfSeparable : PowerBasis F E :=
...
+lemma finite_intermediateField_of_exists_primitive_element.aux_finrank
+    (K : IntermediateField F E) :
+    letI : Algebra K (⊤ : IntermediateField K E) := IntermediateField.algebra _
+    letI : Module K (⊤ : IntermediateField K E) := Algebra.toModule
+    finrank K (⊤ : IntermediateField K E) = finrank K E := by
+  letI : Algebra K (⊤ : IntermediateField K E) := IntermediateField.algebra _
+  letI : Module K (⊤ : IntermediateField K E) := Algebra.toModule
+  apply LinearEquiv.finrank_eq
+  exact {
+    toFun := fun x => x.1,
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/PrimitiveElement.lean]: No it does not work 😭
```
Error: ./././Mathlib/FieldTheory/PrimitiveElement.lean:284:11: error: unexpected token ':='; expected ':' or '}'
```

File: Mathlib/FieldTheory/PrimitiveElement.lean (hunk 5 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/PrimitiveElement.lean:303]: I don't think they are useful in other places *yet*. The `aux_1` may be more useful, but let me make both of them `private` for now.

File: Mathlib/FieldTheory/PrimitiveElement.lean (hunk 6 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/PrimitiveElement.lean:347]: I suspect that it should be true when `E` is a Noetherian integrally closed domain. But currently let's stick to UFD. Maybe it should be moved to next to the statement that `E[X]` is a UFD whenever `E` is a UFD.

File: Mathlib/FieldTheory/PrimitiveElement.lean (hunk 4 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/PrimitiveElement.lean:209]: It's copied from L121-L125. 😅 By the way, the `rintro` seems not working.

Comment (alexjbest) [reply Mathlib/FieldTheory/PrimitiveElement.lean:209]: Sorry I'll try and check my comments work next time ;) still I think something like that should be possible

Comment (acmepjz) [reply Mathlib/FieldTheory/PrimitiveElement.lean]: It works, but should be `rintro x (hx | hx)`. Thanks!

File: Mathlib/FieldTheory/PrimitiveElement.lean (hunk 6 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/PrimitiveElement.lean]: Moved to `Polynomial.fintypeSubtypeMonicDvd`.

**Review by alreadydone — COMMENTED** [review]
Will take a closer look later

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 8]
```diff
@@ -214,6 +251,120 @@ noncomputable def powerBasisOfFiniteOfSeparable : PowerBasis F E :=
...
+    rwa [inf_comm, ← Field.finite_intermediateField_of_exists_primitive_element.aux_2
+      F E α hprim K' K heq.symm] at h
+  -- Therefore there are only finitely many intermediate fields
+  exact Finite.of_injective g hinj
+
+/-- **Steinitz theorem**: a finite extension `E` of `F` has a
+  primitive element (i.e. there is an `α ∈ E` such that `F⟮α⟯ = (⊤ : Subalgebra F E)`)
+  if and only if there exist only finitely many intermediate fields between `E` and `F`. -/
+theorem exists_primitive_element_iff_finite_intermediateField :
+    (∃ α : E, F⟮α⟯ = ⊤) ↔ Finite (IntermediateField F E) :=
```
Comment (alreadydone) [inline Mathlib/FieldTheory/PrimitiveElement.lean:362]: The forward direction also holds if `E/F` is only algebraic (with finite dimensionality implied by the left condition), and the backward direction should hold for any extension `E/F`, with algebraicity and finite dimensionality implied by the right condition.

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 9]
```diff
@@ -20,6 +20,9 @@ In this file we prove the primitive element theorem.
 - `exists_primitive_element`: a finite separable extension `E / F` has a primitive element, i.e.
   there is an `α : E` such that `F⟮α⟯ = (⊤ : Subalgebra F E)`.
 
+- `exists_primitive_element_iff_finite_intermediateField`: a finite extension `E / F` has a
+  primitive element if and only if the intermediate fields between `E / F` are finitely many.
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/PrimitiveElement.lean:24]: Originally I said "if and only if there are only finitely many intermediate fields ..." but it exceeds 100 characters on that line.

[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/FieldTheory/PrimitiveElement.lean:24]: Feel free to split the line, and there's no obligation fitting as many as you could in a line!

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 10]
```diff
@@ -214,6 +251,120 @@ noncomputable def powerBasisOfFiniteOfSeparable : PowerBasis F E :=
...
+section FiniteIntermediateField
+
+theorem exists_primitive_element_of_finite_intermediateField
+    (h : Finite (IntermediateField F E)) : ∃ α : E, F⟮α⟯ = ⊤ := by
+  rcases isEmpty_or_nonempty (Fintype F) with (F_inf | ⟨⟨F_finite⟩⟩)
+  · let P : IntermediateField F E → Prop := fun K => ∃ α : E, F⟮α⟯ = K
+    have base : P ⊥ := ⟨0, adjoin_zero⟩
+    have ih : ∀ (K : IntermediateField F E) (x : E), P K → P (K⟮x⟯.restrictScalars F) := by
+      intro K β hK
+      cases' hK with α hK
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/PrimitiveElement.lean:263]: It works. PS: This code is copied from L232-L233. 😅

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 11]
```diff
@@ -214,6 +251,120 @@ noncomputable def powerBasisOfFiniteOfSeparable : PowerBasis F E :=
...
+      haveI : Infinite F := isEmpty_fintype.mp F_inf
+      cases' primitive_element_inf_aux_of_finite_intermediateField F α β with γ hγ
+      exact ⟨γ, hγ.symm⟩
+    exact induction_on_adjoin P base ih ⊤
+  · exact exists_primitive_element_of_finite_bot F E
+
+-- TODO: give it a descriptive name if it's useful in other places
+private lemma finite_intermediateField_of_exists_primitive_element.aux_1
+    (S : Set E) (hprim : adjoin F S = ⊤) (K : IntermediateField F E) :
+    adjoin K S = ⊤ := by
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/PrimitiveElement.lean:274]: But I don't know how to convert between `Subalgebra.adjoin` and `IntermediateField.adjoin` ☹

[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/PrimitiveElement.lean]: Currently I only provide an `IntermediateField` version. Is it better to also provide an `Algebra` version?

[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/FieldTheory/PrimitiveElement.lean]: That would be reasonable. There is [IntermediateField.adjoin_eq_algebra_adjoin](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Adjoin.html#IntermediateField.adjoin_eq_algebra_adjoin) but we should have a version assuming E/F is algebraic, then the inv_mem condition is automatic.

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 12]
```diff
@@ -282,75 +273,49 @@ private lemma finite_intermediateField_of_exists_primitive_element.aux_2
...
-    rw [← sum_C_mul_X_pow_eq g, Polynomial.sum_def, Polynomial.map_sum]
-    congr
-    funext n
-    rw [Polynomial.map_mul, Polynomial.map_pow, Polynomial.map_X, Polynomial.map_C]
-    congr
-  let q := minpoly K'' α
-  obtain ⟨r, hqdvdp⟩ := show q ∣ p by
-    apply minpoly.dvd
-    rw [aeval_def, eval₂_eq_eval_map, hp, ← eval₂_eq_eval_map, ← aeval_def]
+  have g_lifts : g ∈ lifts (algebraMap ↑(K ⊓ K') E)
```
Comment (alreadydone) [inline Mathlib/FieldTheory/PrimitiveElement.lean:276]: [Polynomial.lifts](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Polynomial/Lifts.html#Polynomial.lifts) is exactly designed for such situation but is little known. Sorry for not mentioning earlier!

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 13]
```diff
@@ -282,75 +273,49 @@ private lemma finite_intermediateField_of_exists_primitive_element.aux_2
...
-    natDegree_mul (left_ne_zero_of_mul hpne0) (right_ne_zero_of_mul hpne0),
-    ← IntermediateField.adjoin.finrank (K := K'') (x := α) (hx := isIntegral_of_finite K'' α),
-    IntermediateField.adjoin_eq_top_of_adjoin_eq_top F K'' E hprim,
-    show finrank K'' (⊤ : IntermediateField K'' E) = finrank K'' E from finrank_top K'' E] at hpdeg
-  replace hpdeg : finrank K E ≥ finrank K'' E := by linarith only [hpdeg, Nat.le_add_right]
-  exact inf_eq_left.1 (eq_of_le_of_finrank_le' inf_le_left hpdeg)
+  have finrank_eq : ∀ K : IntermediateField F E, finrank K E = natDegree (minpoly K α)
+  · intro K
+    have := adjoin.finrank (isIntegral_of_finite K α)
+    erw [adjoin_eq_top_of_adjoin_eq_top F K E hprim, finrank_top K E] at this
```
Comment (alreadydone) [inline Mathlib/FieldTheory/PrimitiveElement.lean:290]: Quite weird (and fortunate) that `rw [adjoin_eq_top_of_adjoin_eq_top F K E hprim]` doesn't result in a "motive not type correct error" and requires introduction of no instance.

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 14]
```diff
@@ -214,6 +244,91 @@ noncomputable def powerBasisOfFiniteOfSeparable : PowerBasis F E :=
...
+    {S : Set C} (hprim : adjoin A S = ⊤) : adjoin B S = ⊤ := by
+  apply restrictScalars_injective (K := A) (L' := B) (L := C)
+  rw [restrictScalars_top, ← top_le_iff, ← hprim, adjoin_le_iff,
+    coe_restrictScalars, ← adjoin_le_iff]
+
+-- TODO: give it a descriptive name if it's useful in other places
+private lemma finite_intermediateField_of_exists_primitive_element.aux_2
+    (α : E) (hprim : F⟮α⟯ = ⊤) (K K' : IntermediateField F E)
+    (heq : (minpoly K α).map (algebraMap K E) = (minpoly K' α).map (algebraMap K' E)) :
+    K ≤ K' := by
```
Comment (alreadydone) [inline Mathlib/FieldTheory/PrimitiveElement.lean:274]: This lemma should remain private, but I think the `K = K'` version (restated in terms of `Function.Injective`) is potentially useful outside of this file.

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 15]
```diff
@@ -52,7 +56,7 @@ variable (F : Type*) [Field F] (E : Type*) [Field E] [Algebra F E]
 
 /-- **Primitive element theorem** assuming E is finite. -/
 theorem exists_primitive_element_of_finite_top [Finite E] : ∃ α : E, F⟮α⟯ = ⊤ := by
```
Comment (alreadydone) [inline Mathlib/FieldTheory/PrimitiveElement.lean:58]: Many theorems in this file could have `⊤` replaced with an arbitrary intermediate field, which would make them more easily applicable, even though there's no new mathematical content. Maybe in a future PR?

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 16]
```diff
@@ -97,8 +101,8 @@ variable (F)
 
 variable [Algebra F E]
 
--- This is the heart of the proof of the primitive element theorem. It shows that if `F` is
--- infinite and `α` and `β` are separable over `F` then `F⟮α, β⟯` is generated by a single element.
+/-- This is the heart of the proof of the primitive element theorem. It shows that if `F` is
+infinite and `α` and `β` are separable over `F` then `F⟮α, β⟯` is generated by a single element. -/
 theorem primitive_element_inf_aux [IsSeparable F E] : ∃ γ : E, F⟮α, β⟯ = F⟮γ⟯ := by
```
Comment (alreadydone) [inline Mathlib/FieldTheory/PrimitiveElement.lean:106]: The next thing to do is to prove the `IsSeparable` version of the theorem `exists_primitive_element` using `exists_primitive_element_of_finite_intermediateField`, and then this long proof can be removed.

The key ingredient would be [IsGalois.intermediateFieldEquivSubgroup](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Galois.html#IsGalois.intermediateFieldEquivSubgroup), but that need to be applied to the SplittingField, so some maneuvers would be required.

Comment (alreadydone) [reply Mathlib/FieldTheory/PrimitiveElement.lean:106]: Oh I guess that's circular ... would require refactoring the proof of `card_aut_eq_finrank`, which is definitely out of scope of this PR.

Comment (acmepjz) [reply Mathlib/FieldTheory/PrimitiveElement.lean:106]: Maybe it's related to separable degree of field extension <https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Separability.20degree.3F>?

File: Mathlib/FieldTheory/PrimitiveElement.lean (hunk 15 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/PrimitiveElement.lean:58]: I'm not sure since I haven't read that code before; it was already here when I add new contents.

File: Mathlib/FieldTheory/PrimitiveElement.lean (hunk 14 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/PrimitiveElement.lean:274]: Can you suggest a name for the `Function.Injective` version of the lemma?

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

File: Mathlib/FieldTheory/PrimitiveElement.lean (hunk 8 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/PrimitiveElement.lean:322]: It complains about `[Algebra.IsAlgebraic F E]` because `Algebra.IsAlgebraic` is not a class. So I have to write `(halg : Algebra.IsAlgebraic F E)`.

Comment (alreadydone) [reply Mathlib/FieldTheory/PrimitiveElement.lean]: Yeah, indeed you have to do that when it's not a class. Having a FiniteDimensional version might be more convenient, but I doubt this theorem will be used very often ...

File: Mathlib/FieldTheory/PrimitiveElement.lean (hunk 14 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/PrimitiveElement.lean]: Actually, I think it's not harder to prove `K` is generated by the coefficients of `(minpoly K α).map (algebraMap K E)`, which would trivially imply injectivity, and would be of more value to mathlib.

File: Mathlib/FieldTheory/PrimitiveElement.lean (hunk 16 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/PrimitiveElement.lean:106]: Indeed since there is [Normal.algHomEquivAut](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Normal.html#Normal.algHomEquivAut), so we're done once you show the separable degree of a separable extension is equal to its degree.

File: Mathlib/FieldTheory/PrimitiveElement.lean (hunk 14 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/PrimitiveElement.lean]: I think it's a good idea. It can be named `IntermediateField.eq_adjoin_minpoly_coeff_of_exists_primitive_element`?

Comment (alreadydone) [reply Mathlib/FieldTheory/PrimitiveElement.lean]: Sounds good to me!

**Comment by acmepjz** [comment]
Finally the proof is sorry-free. 😄

By the way, I added a lemma `IntermediateField.finiteDimensional_adjoin_of_finite_of_isAlgebraic` at L296, but it turns out that this lemma is unused. Should I remove that lemma?

File: Mathlib/FieldTheory/PrimitiveElement.lean (hunk 15 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/PrimitiveElement.lean:58]: Yes, I think `primitive_element_inf_aux_of_finite_intermediateField` is a special case of `exists_primitive_element_of_finite_intermediateField` if the latter is changed a slightly. For others I think it's better for a future PR/issue.

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 17]
```diff
@@ -214,6 +242,215 @@ noncomputable def powerBasisOfFiniteOfSeparable : PowerBasis F E :=
 
 end SeparableAssumption
 
+section FiniteIntermediateField
+
+-- TODO: move it to suitable file
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/PrimitiveElement.lean:247]: There are still various TODO here.

File: Mathlib/FieldTheory/Adjoin.lean [hunk 18]
```diff
@@ -418,6 +435,26 @@ theorem adjoin_map {E' : Type*} [Field E'] [Algebra F E'] (f : E →ₐ[F] E') :
   rfl
 #align intermediate_field.adjoin_map IntermediateField.adjoin_map
 
+theorem lift_adjoin (K : IntermediateField F E) (S : Set K) :
+    lift (L := E) (E := adjoin F S) = adjoin F (Subtype.val '' S) := by
+  simp only [lift, adjoin_map, coe_val]
```
Comment (eric-wieser) [inline Mathlib/FieldTheory/Adjoin.lean:440]:
```suggestion
theorem lift_adjoin (K : IntermediateField F E) (S : Set K) :
    lift (L := E) (E := adjoin F S) = adjoin F (Subtype.val '' S) :=
  adjoin_map _ _
```

File: Mathlib/FieldTheory/Adjoin.lean [hunk 19]
```diff
@@ -418,6 +435,26 @@ theorem adjoin_map {E' : Type*} [Field E'] [Algebra F E'] (f : E →ₐ[F] E') :
...
+
+@[simp]
+theorem lift_adjoin_simple (K : IntermediateField F E) (α : K) :
+    lift (L := E) (E := adjoin F {α}) = adjoin F {α.1} := by
+  simp only [lift_adjoin, Set.image_singleton]
+
+@[simp]
+theorem lift_bot (K : IntermediateField F E) :
+    lift (L := E) (E := (⊥ : IntermediateField F K)) = ⊥ := by
+  rw [← adjoin_empty, ← adjoin_empty, lift_adjoin, Set.image_empty]
```
Comment (eric-wieser) [inline Mathlib/FieldTheory/Adjoin.lean:450]: With `#7957`, the proof should just be `map_bot`

File: Mathlib/RingTheory/Polynomial/Basic.lean [hunk 20]
```diff
@@ -1222,6 +1222,22 @@ instance (priority := 100) uniqueFactorizationMonoid : UniqueFactorizationMonoid
...
+    Fintype { g : D[X] // g.Monic ∧ g ∣ f } := by
+  set G := { g : D[X] // g.Monic ∧ g ∣ f }
+  let y : Associates D[X] := Associates.mk f
+  have hy : y ≠ 0 := Associates.mk_ne_zero.mpr hf
+  let H := { x : Associates D[X] // x ∣ y }
+  let hfin : Fintype H := UniqueFactorizationMonoid.fintypeSubtypeDvd y hy
+  let i : G → H := fun x ↦ ⟨Associates.mk x.1, Associates.mk_dvd_mk.2 x.2.2⟩
+  refine Fintype.ofInjective i fun x y heq ↦ ?_
+  rw [Subtype.mk.injEq] at heq ⊢
+  exact eq_of_monic_of_associated x.2.1 y.2.1 (Associates.mk_eq_mk_iff_associated.mp heq)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Polynomial/Basic.lean:1239]: `Fintype` instances shouldn't really be noncomputable; I think this would be better suited as a `Finite` instance.

Comment (acmepjz) [reply Mathlib/RingTheory/Polynomial/Basic.lean:1239]: The proof uses `UniqueFactorizationMonoid.fintypeSubtypeDvd` which is a `noncomputable def` of `Fintype`. For API consistency I also used `Fintype` for this result.

File: Mathlib/FieldTheory/Adjoin.lean (hunk 18 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/Adjoin.lean]: Sorry it does not work:
```
Error: ./././Mathlib/FieldTheory/Adjoin.lean:440:2: error: type mismatch
  adjoin_map ?m.759025 ?m.759030
has type
  ∀ (f : ?m.759027 →ₐ[?m.759025] ?m.759031),
    map f (adjoin ?m.759025 ?m.759030) = adjoin ?m.759025 (↑f '' ?m.759030) : Prop
but is expected to have type
  lift (adjoin F S) = adjoin F (Subtype.val '' S) : Prop
```

File: Mathlib/RingTheory/Polynomial/Basic.lean (hunk 20 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Polynomial/Basic.lean:1239]: I think we'd like to eventually replace that by `Finite` as well.

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 21]
```diff
@@ -214,6 +242,105 @@ noncomputable def powerBasisOfFiniteOfSeparable : PowerBasis F E :=
 
 end SeparableAssumption
 
+section FiniteIntermediateField
+
+-- TODO: generalize to 0 ≤ m ≠ n; show [F⟮α⟯ : F⟮α ^ m⟯] = m when m > 0.
+theorem isAlgebraic_of_adjoin_eq_adjoin {α : E} {m n : ℕ} (hm : 0 < m) (hmn : m < n)
+    (heq : F⟮α ^ m⟯ = F⟮α ^ n⟯) : IsAlgebraic F α := by
```
Comment (alreadydone) [inline Mathlib/FieldTheory/PrimitiveElement.lean:249]: Thanks for taking up my challenge. The proofs you come up with are nice and direct. The proof of `finiteDimensional_of_finite_intermediateField` was unexpected to me: the proof I have in mind is to keep adjoining elements to build an infinite chain of intermediate fields.

However, the statement of this theorem is still a bit sub-mathlib-standard, but I don't think it's worth spending much more efforts on it, so I left a to-do item as a comment.

**Review by alreadydone — APPROVED** [review]
Thanks, looks great to me now!

File: Mathlib/FieldTheory/PrimitiveElement.lean (hunk 21 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/PrimitiveElement.lean:249]: Oh, I haven't think of your generalizations before. It looks cool. 😄

File: Mathlib/FieldTheory/PrimitiveElement.lean [hunk 22]
```diff
@@ -214,6 +242,105 @@ noncomputable def powerBasisOfFiniteOfSeparable : PowerBasis F E :=
 
 end SeparableAssumption
 
+section FiniteIntermediateField
+
+-- TODO: generalize to 0 ≤ m ≠ n; show [F⟮α⟯ : F⟮α ^ m⟯] = m when m > 0.
```
Comment (alreadydone) [inline Mathlib/FieldTheory/PrimitiveElement.lean:247]:
```suggestion
-- TODO: generalize to 0 ≤ m ≠ n; show [F⟮α⟯ : F⟮α ^ m⟯] = m if m > 0 and α transcendental.
```

File: Mathlib/FieldTheory/PrimitiveElement.lean (hunk 21 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/PrimitiveElement.lean]: Do you mean [this](https://github.com/leanprover-community/mathlib4/pull/7788/commits/03ea98ffef8ddb7136916992559b42bd626f7d11)? Sorry for the oversight, I was operating in proof-by-contradiction mode.

Comment (alreadydone) [reply Mathlib/FieldTheory/PrimitiveElement.lean]: `[F⟮X⟯ : F⟮X^m⟯] = m` corresponds to the fact that `X -> X^m` is a degree m self-(branched)-cover of P^1.
To show the equality you mostly just need to prove the polynomial `X^m-Y : F⟮Y⟯[X]` is irreducible. Since `F⟮Y⟯` is the fraction field of `F[Y]` (which is integrally closed), by [Polynomial.Monic.irreducible_iff_irreducible_map_fraction_map](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Polynomial/GaussLemma.html#Polynomial.Monic.irreducible_iff_irreducible_map_fraction_map) you reduce to showing it's irreducible in F[Y][X], where you can use [Polynomial.irreducible_of_eisenstein_criterion](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/EisensteinCriterion.html#Polynomial.irreducible_of_eisenstein_criterion). You will need to develop some API around `transcendental`, e.g. show that F⟮α⟯ is isomorphic to F⟮Y⟯=Frac F[Y] when α is transcendental.

Comment (alreadydone) [reply Mathlib/FieldTheory/PrimitiveElement.lean]: A few more missing APIs:

+ An AlgHom between two extensions induces an OrderEmbedding between the IntermediateField types (in particular `IntermediateField.lift` is injective). An AlgEquiv induces an OrderEquiv.

+ A transcendental element α over F induces an AlgEquiv between F⟮α⟯ and [RatFunc](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/RatFunc.html#RatFunc) F.

Then you can just show that `RatFunc F` over `F` has infinitely many intermediate fields. But at some point you still need to identify the intermediate field `F⟮X^m⟯` with `RatFunc F` itself ...

**Comment by acmepjz** [comment]
> `generalize to 0 ≤ m ≠ n;`

I think this should be easy; I'll try it at next day.

> `show [F⟮α⟯ : F⟮α ^ m⟯] = m if m > 0 and α transcendental.`

I think maybe you can prove directly that `1, α, ... , α ^ (m-1)` form a basis of `F⟮α⟯` as a `F⟮α ^ m⟯`-vector space?

**Comment by alreadydone** [comment]
> I think maybe you can prove directly that 1, α, ... , α ^ (m-1) form a basis of F⟮α⟯ as a F⟮α ^ m⟯-vector space?

> Or perhaps more generally, [F⟮α⟯ : F⟮Polynomial.aeval α f⟯] = m if f : F[X] with m = f.natDegree > 0 and α transcendental

Yeah, both are true. A PowerBasis follows once you show irreducibility of the polynomial (which implies it's the minimal polynomial of α over F⟮α ^ m⟯). A direct proof of linear independence would also be feasible, more so for the similar statement about Algebra.adjoin, but for IntermediateField.adjoin you can still clear the denominators and the proof is essentially the same. I'm not sure it's easier than the proof using irreducibility though.

For the more general statement, actually you can take any rational function `f/g` in α, and the degree of the field extension of `[F(α⟯ : F⟮f(α)/g(α)⟯]` will be `max {deg f, deg g}` assuming `f` and `g` are coprime. For this general result, the Eisenstein criterion no longer applies, but there's actually a simpler proof that generalizes: wlog we may assume `deg g < deg f` because we may replace `f/g` by `g/f`, or in case `deg f = deg g`, replace it by `1/(g/f-1)`. We may further assume `f` is monic, so that the candidate minimal polynomial `f(X)-g(X)Y` of `f(α)/g(α)` is also monic as a polynomial in X, so we can use integral closedness of `F[Y]` to reduce irreducibility problem to the ring `F[Y][X]` as before. But this polynomial is of degree 1 in Y, so its factors are pretty easy to analyze: if it's a product then one of the factors must be of degree 0 in Y, so a polynomial in X, which must be a unit because it needs to divide both f and g.

**Comment by acmepjz** [comment]
Sorry for messing around with `Adjoin`. I added two new lemmas and make some of them `simp` lemmas. Is that OK?

**Comment by alreadydone** [comment]
maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
